US04692448
The procedure described in Example 12 is followed using 1[3-(4-chlorophenyl)propyl]-piperazine (4.8 g), bis(2-chloroethyl) disulfide (1.9 g), potassium hydroxide (5.0 g), and dimethylsulfoxide (50 ml). Workup as described in Example 12 provides an oil which is purified on a silica gel column (methylene chloride:methanol, 9:1). The resulting oil (1.5 g) is precipitated with ethereal hydrochloric acid and recrystallized from water/ethanol to give 1,1'-(dithiodi-2, 1-ethanediyl)bis{4-[3-(4-chlorophenyl)propyl]piperazine} tetrahydrochloride as a white crystalline solid, m.p. 284°-286° C.

reactant | 1[3-(4-chlorophenyl)propyl]-piperazine | 4.8 g | ClC1=CC=C(C=C1)CCCN1CCNCC1 | C13H19ClN2
reactant | bis(2-chloroethyl) disulfide | 1.9 g | ClCCSSCCCl | C4H8Cl2S2
reactant | potassium hydroxide | 5.0 g | [OH-].[K+]
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1,1'-(dithiodi-2, 1-ethanediyl)bis{4-[3-(4-chlorophenyl)propyl]piperazine} tetrahydrochloride | Cl.Cl.Cl.Cl.C(CSSCCN1CCN(CC1)CCCC1=CC=C(C=C1)Cl)N1CCN(CC1)CCCC1=CC=C(C=C1)Cl | InChI=1S/C30H44Cl2N4S2.4ClH/c31-29-9-5-27(6-10-29)3-1-13-33-15-19-35(20-16-33)23-25-37-38-26-24-36-21-17-34(18-22-36)14-2-4-28-7-11-30(32)12-8-28;;;;/h5-12H,1-4,13-26H2;4*1H
